### ISSUE TITLE
`simp?` can still incorrectly unresolve a name to the current theorem name

### ISSUE THREAD

**Issue by mniip** [leanprover/lean4#6706]
### Description

When `simp? [name]` gets replaced with `simp only [name']`, it can still sometimes alias the current theorem name due to incorrect manipulation of namespaces.

### Context

This has been previously filed and resolved in https://github.com/leanprover/lean4/issues/4591, but the issue still persists.

### Steps to Reproduce

```lean
def P := True
theorem N.A.B : P := by constructor
theorem N.X.A.B : P := by simp? [N.A.B]
-- Try this: simp only [A.B]
```

**Expected behavior:** Lean offers to replace with `simp only [N.A.B]`.

**Actual behavior:** Lean offers to replace with `simp only [A.B]`, which in this context is a different name from `N.A.B`, making the theorem recursive.

### Versions

4.13.0, 4.16.0-rc2

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks for the report. Is this something that bit you “in the wild”, or a constructed corner case?

**Comment by mniip** [comment]
It did happen in the wild: I have a function `NFA.kleene.ε` whose behavior on a certain subset of the inputs is characterized by
```lean
@[simp] theorem NFA.kleene.ε.some_none
  : ReflTransGen (ε E I F) (some q) none ↔ ∃ f ∈ F, ReflTransGen E q f
```
Then I have a construction on top of it, with a function `NFA.Triple.kleene.ε`, and a theorem that characterizes the new construction in terms of the previous:
```lean
theorem NFA.Triple.kleene.ε.gen
  : ReflTransGen (ε E I F) (p, q, s) (p', q', s')
    ↔ p = p' ∧ s = s'
      ∧ ReflTransGen (NFA.kleene.ε E (Rel.image I p) (Rel.preimage F s)) q q'
```
So a similar proof about `NFA.Triple.kleene.ε` on a subset of inputs proceeds by simply invoking the two aforementioned theorems:
```lean
@[simp] theorem NFA.Triple.kleene.ε.some_none
  : ReflTransGen (ε E I F) (p, some q, s) (p', none, s')
    ↔ p = p' ∧ s = s' ∧ (∃ f ∈ Rel.preimage F s, ReflTransGen E q f)
  := by simp only [gen, NFA.kleene.ε.some_none]
```
Which is where Lean purports to instead use `simp only [gen, kleene.ε.none_some]` and thus make a cyclic proof.

**Comment by leodemoura** [comment]
@nomeata This is a bug in `unresolveNameGlobalAvoidingLocals`. It is not taking the auxiliary declarations in the local context into account. Here is a repro without `simp?`

```lean
import Lean

def N.A.B := 10

theorem N.X.A.B : True := by
  open Lean Meta Elab Tactic in
  run_tac do
    for decl in (← getLCtx) do
      if decl.isAuxDecl then
        IO.println s!"current namespace: {← getCurrNamespace}\nauxiliary declaration: {decl.userName}"
    IO.println s!"{``N.A.B} ===> {← unresolveNameGlobalAvoidingLocals ``N.A.B}"
  sorry
/-
current namespace: N.X.A
auxiliary declaration: B
N.A.B ===> A.B
-/
```
